US08247403B2
(3) 4-benzyl-6-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine
To a solution of 4-benzyl-6-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one (4.94 g, 14.9 mmol) in tetrahydrofuran (60 ml) was added 1M borane-tetrahydrofuran solution (61.5 ml, 61.5 mmol), and the mixture was stirred at 80° C. for 2 hr. Under ice-cooling, methanol (140 ml) and sodium hydroxide (13.2 g, 331 mmol) were added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure. The residue was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give the desired product (450 mg, 9.5%) as an oil.

reactant | 4-benzyl-6-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 14.9 mmol, 4.94 g | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C(=CC=C2)Br | C16H14BrNO2
reactant | borane tetrahydrofuran | 61.5 mmol, 1M, 61.5 ml | B.O1CCCC1
reactant | methanol | 140 ml | CO | CH4O
reactant | sodium hydroxide | 331 mmol, 13.2 g | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-benzyl-6-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 450 mg, 9.5% | C(C1=CC=CC=C1)N1CCOC2=C(C1)C(=CC=C2)Br | C16H16BrNO
